US06989402B1
3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl-4-aminobenzenesulphonamide
3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid (0.035 mmol) was coupled with 4-aminobenzenesulphonamide (0.175 mmol) using the method described in Example 58. Purification on HPLC of the residue gave 7 mg (34%) of the title compound.

reactant | 3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid | 0.035 mmol | BrC=1C=C(C(=O)O)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Br | C17H16Br2O4
reactant | 4-aminobenzenesulphonamide | 0.175 mmol | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
product | 3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl-4-aminobenzenesulphonamide | 7 mg, 34% | BrC=1C=C(C(=O)C2=C(C=CC(=C2)N)S(=O)(=O)N)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br | C22H20Br2N2O5S
